US07465815B2
N-(3-(4-Isopropylphenyl)-3,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using 3-(4-isopropylphenyl)-3,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 35, the title compound was synthesized in the same manner as in Example 1. Yield: 59%. Melting point: 132-133° C. (ethyl acetate-hexane).

reactant | 3-(4-isopropylphenyl)-3,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)C1(COC2=C1C=C(C(=C2C)C)N)C | C20H25NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-(3-(4-Isopropylphenyl)-3,6,7-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 59% | C(C)(C)C1=CC=C(C=C1)C1(COC2=C1C=C(C(=C2C)C)NC(CC(C)(C)C)=O)C | C26H35NO2
